US05068231
N-(1,1-Dimethylethyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide
A stirred slurry of 6.2 g (0.02 mole) of 3-[3-(trifluoromethyl)phenoxy]azetidine oxalate in 60 ml of tetrahydrofuran was treated with 2 g (0.02 mole) of 1,1-dimethylethyl isocyanate followed in 30 min with 5 ml of triethylamine. The clear solution which developed was stirred for 18 hr. The reaction mixture was treated with 10 ml of water and after 20 min, the tetrahydrofuran portion was separated, dried over magnesium sulfate, and concentrated on a rotary evaporator. The solid residue was recrystallized from ethanol/water, yielding 5.8 g (91.7%) of fine white crystals, m.p. 105°-107° C.

reactant | 3-[3-(trifluoromethyl)phenoxy]azetidine oxalate | 0.02 mole, 6.2 g | C(C(=O)O)(=O)O.FC(C=1C=C(OC2CNC2)C=CC1)(F)F
reactant | 1,1-dimethylethyl isocyanate | 0.02 mole, 2 g | CC(C)(C)N=C=O | C5H9NO
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
reactant | water | 10 ml | O | H2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | N-(1,1-Dimethylethyl)-3-[3-(trifluoromethyl)phenoxy]-1-azetidinecarboxamide | 5.8 g, 91.7% | CC(C)(C)NC(=O)N1CC(C1)OC1=CC(=CC=C1)C(F)(F)F | C15H19F3N2O2
